US09447078B2
A mixture of 5-chlorothiophene-2-carboxylic acid (3.01 g, 19.0 mmol), cyclohexylmethyl bromide (3.51 g, 19.8 mmol) and potassium carbonate (2.81 g, 20.33 mmol) was stirred under Ar at +85° C. for 3 days and cooled to room temperature. Reaction mixture was diluted with water and extracted with hexanes three times. Combined organic layers were dried over anhydrous MgSO4 and concentrated under reduced pressure. Purification by flash chromatography (2%-15% EtOAc—hexanes gradient) gave cyclohexylmethyl 5-chlorothiophene-2-carboxylate as a colorless oil. Yield (4.76 g, 97%); 1H NMR (400 MHz, CDCl3) δ 7.56-7.60 (m, 1H), 6.90-6.94 (m, 1H), 4.08 (d, J=6.10 Hz, 2H), 1.64-1.82 (m, 6H), 1.10-1.34 (m, 3H), 0.97-1.10 (m, 2H).

reactant | 5-chlorothiophene-2-carboxylic acid | 19.0 mmol, 3.01 g | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | cyclohexylmethyl bromide | 19.8 mmol, 3.51 g | C1(CCCCC1)CBr | C7H13Br
reactant | potassium carbonate | 20.33 mmol, 2.81 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | cyclohexylmethyl 5-chlorothiophene-2-carboxylate | ClC1=CC=C(S1)C(=O)OCC1CCCCC1 | C12H15ClO2S
